US08303844B2
7.0 g (22.7 mmol) of 3,4-difluoro-6-(4-propylcyclohexyl)-5,6,7,8-tetrahydronaphthalen-2-ol are initially introduced in 90 ml of THF together with 2.70 ml (24.0 mmol) of 1-hexyn-3-ol and 6.60 g (25.2 mmol) of triphenylphosphine. 5.3 ml (46.8 mmol) of DIAD in 10 ml of THF are added over the course of 20 min with ice-cooling. After 19 h at RT, water is added, and the mixture is extracted a number of times with MTBE. The combined organic phases are washed with water and saturated sodium chloride soln., and the solution is dried using sodium sulfate. The residue remaining after removal of the solvents is purified by column chromatography (SiO2, n-heptane MTBE=2:1), giving 6-(1-ethynylbutoxy)-7,8-difluoro-2-(4-propylcyclohexyl)-1,2,3,4-tetrahydronaphthalene as a colourless solid.

reactant | 3,4-difluoro-6-(4-propylcyclohexyl)-5,6,7,8-tetrahydronaphthalen-2-ol | 22.7 mmol, 7.0 g | FC=1C(=CC=2CCC(CC2C1F)C1CCC(CC1)CCC)O | C19H26F2O
reactant | 1-hexyn-3-ol | 24.0 mmol, 2.70 ml | C#CC(CCC)O | C6H10O
reactant | triphenylphosphine | 25.2 mmol, 6.60 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 46.8 mmol, 5.3 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 6-(1-ethynylbutoxy)-7,8-difluoro-2-(4-propylcyclohexyl)-1,2,3,4-tetrahydronaphthalene | C(#C)C(CCC)OC=1C=C2CCC(CC2=C(C1F)F)C1CCC(CC1)CCC | C25H34F2O
